US04824834
4-Hydroxy-8-phenylpyrazolo[1,5-a]-1,3,5-triazine
A mixture of 3-amino-2-carbamoyl-4-phenylpyrazole (4.8 g) and ethyl orthoformate (30 ml) is stirred at 100°-110° C. for 13 hours, and thereto is added methanol acetate. The precipitate is separated by filtration, washed with methanol or ethyl acetate, and dried to give the title compound (2.08 g).

reactant | 3-amino-2-carbamoyl-4-phenylpyrazole | 4.8 g | NC=1N(N=CC1C1=CC=CC=C1)C(N)=O | C10H10N4O
reactant | methanol acetate | C(C)(=O)OC | C3H6O2
solvent | ethyl orthoformate | 30 ml | C(OCC)([O-])[O-]
product | 4-Hydroxy-8-phenylpyrazolo[1,5-a]-1,3,5-triazine | 2.08 g | OC1=NC=NC=2N1N=CC2C2=CC=CC=C2 | C11H8N4O
